US06080781
Synthesis of 2-(phenylmethylene)-6-hydroxy-1-tetralone
After 6-hydroxy-1-tetralone 1.0 g and benzaldehyde 0.42 ml were added to a mixture of concentrated hydrochloric acid 50 ml and methanol 75 ml, the mixture was refluxed for two hours and cooled to room temperature, and water 400 ml was added. The precipitated crystals were filtered. The crystals were dried over phosphorous pentoxide for six hours under reduced pressure to obtain the desired compound 0.756 g.

reactant | 6-hydroxy-1-tetralone | 1.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | benzaldehyde | 0.42 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | methanol | 75 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 2-(phenylmethylene)-6-hydroxy-1-tetralone | 0.756 g | C1(=CC=CC=C1)C=C1C(C2=CC=C(C=C2CC1)O)=O | C17H14O2
